US07834185B2
((S)-1-Benzylpyrrolidin-3-yl)(3-methoxyphenyl)phenylacetonitrile
To a stirred solution of (3-methoxyphenyl)phenylacetonitrile (5.2 g, 23 mmol; prepared as described in Preparation 6) in THF (100 mL) was added toluene-4-sulfonic acid (S)-1-benzylpyrrolidin-3-yl ester (7.2 g, 22 mmol), followed by the addition of potassium t-butoxide (4.0 g, 36 mmol). The mixture was heated to 80° C. for 1 hour, then allowed to cool and H2O (10 mL) was added. The mixture was filtered through a pad of Celite®. The mixture was washed with a saturated aqueous NaCl solution (100 mL) and the organic phase was separated, dried over MgSO4, and filtered. The solvent was removed under reduced pressure. The crude material was purified via silica gel chromatography to afford the title compound (6.2 g, 17 mmol). MS m/z: {M+H+] calcd for C26H26N2O, 382.5; found 383.4.

reactant | (3-methoxyphenyl)phenylacetonitrile | 23 mmol, 5.2 g | COC=1C=C(C=CC1)C(C#N)C1=CC=CC=C1 | C15H13NO
reactant | toluene-4-sulfonic acid (S)-1-benzylpyrrolidin-3-yl ester | 22 mmol, 7.2 g | C(C1=CC=CC=C1)N1C[C@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C18H21NO3S
reactant | potassium t-butoxide | 36 mmol, 4.0 g | CC(C)([O-])C.[K+]
reactant | H2O | 10 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ((S)-1-Benzylpyrrolidin-3-yl)(3-methoxyphenyl)phenylacetonitrile | 17 mmol, 6.2 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)C(C#N)(C1=CC=CC=C1)C1=CC(=CC=C1)OC | C26H26N2O
